US06858591B2
A solution of tert-butyl (2S,3S)-2-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-methylpentanoate (400 mg, 1.19 mmol) in methylene chloride (7 ml) was cooled to 0° C. under nitrogen atmosphere. To this solution was added trifluoroacetic acid (10 ml), and the resulting mixture was warmed up to room temperature and stirred for 2.5 hours. The volatiles were removed in vacuo to provide (2S,3S)-2-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-methylpentanoic acid (368 mg, 100%) as an orange oil.

reactant | tert-butyl (2S,3S)-2-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-methylpentanoate | 1.19 mmol, 400 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)[C@H](C(C)C)O | C18H27NO5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | (2S,3S)-2-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-methylpentanoic acid | 368 mg, 100% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)[C@H](C(C)C)O | C14H19NO5
